### PR TITLE
[Merged by Bors] - chore: small tweaks related to Subsingleton.eq_zero

### PR DESCRIPTION
**Pull request by grunweg**
Discovered while auditing the uses of that lemmas, for reviewing #42053.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 1]
```diff
@@ -185,7 +185,7 @@ omit [Nontrivial R] in
 /-- An absolute value satisfies `f (n : R) ≤ n` for every `n : ℕ`. -/
 lemma apply_nat_le_self [IsOrderedRing S] (n : ℕ) : abv n ≤ n := by
   cases subsingleton_or_nontrivial R
-  · simp [Subsingleton.eq_zero (n : R)]
+  · simp [Subsingleton.eq_zero (α := R)]
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:188]: do we even need this? does this not work?
```suggestion
  · simp [Subsingleton.eq_zero]
```

Comment (j-loreaux) [reply Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:188]: I wouldn't be surprised if it's necessary, as otherwise I think there are too many metavariables for `simp`, but I'll let Michael check to be sure.

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:188]: This would run counter to the PR in #42053 --- so even if it worked, we shouldn't do it.

**Comment by grunweg** [comment]
Thanks for the quick review!
bors merge
